US07041696B2
Preparation of 3-allyloxycarbonylamino-4,4-diethoxy-butyric acid tert-butyl ester (103):
To a solution of 3-allyloxycarbonylamino-4-oxo-butyric acid tert-butyl ester, 102, (13.3 g, 51.7 mmol) in anhydrous ethanol (75 mL) is added ethyl orthoformate (45 mL, 0.270 mol), p-toluenesulfonic acid (0.15 g, cat.) and 4 Å molecular sieves (10 g, kiln dried) under N2. After the consumption of starting material, the sieves are removed by filtration and the solvent removed in vacuo to provide the desired compound as a clear oil which is used directly without further purification. MS (ESI): m/e=332.21 (M+H).

reactant | 3-allyloxycarbonylamino-4-oxo-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(C=O)NC(=O)OCC=C)=O | C12H19NO5
reactant | ethyl orthoformate | 0.270 mol, 45 mL | C(OCC)([O-])[O-]
reactant | p-toluenesulfonic acid | 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-allyloxycarbonylamino-4,4-diethoxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(C(OCC)OCC)NC(=O)OCC=C)=O | C16H29NO6
